US07253196B2
2-(cyclohexylamino)-5-ethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from n-cyclohexylthiourea and ethyl 2-bromobutyrate according to Method C. Gave 201 mg (75%).

reactant | n-cyclohexylthiourea | C1CCC(CC1)NC(=S)N | C7H14N2S
reactant | ethyl 2-bromobutyrate | BrC(C(=O)OCC)CC | C6H11BrO2
product | 2-(cyclohexylamino)-5-ethyl-1,3-thiazol-4(5H)-one | C1(CCCCC1)NC=1SC(C(N1)=O)CC | C11H18N2OS
